US09056141B2
Allyl-triethylene glycol was prepared according to the literature method with modifications (Setz O, et al. Angew Chem Int Ed Engl. 1995, 34, 803-805). Thus, the mixture of triethylene glycol (11.83 g, 78.8 mmol), potassium t-butoxide (4.42 g, 39.4 mmol) and potassium iodide (0.65 g, 3.94 mmol) in THF (500 mL) was stirred at room temperature for 0.5 h, into which was added dropwise allyl bromide (4.767 g, 39.4 mmol) in THF (120 mL) over a period of 1.5 h. After continuing to be stirred at room temperature for 36 h, the mixture was filtered through a celite pad. The crude product, obtained after removal of solvents under vacuum, was purified by a silica gel column chromatography eluting with hexane/ethyl acetate (1:1) to afford the product (4.9 g, 25.8 mmol, 65% yield) with chemical structure confirmed by 1H NMR and MS.

reactant | triethylene glycol | 78.8 mmol, 11.83 g | C(COCCOCCO)O | C6H14O4
reactant | potassium t-butoxide | 39.4 mmol, 4.42 g | CC(C)([O-])C.[K+]
reactant | potassium iodide | 3.94 mmol, 0.65 g | [I-].[K+]
reactant | allyl bromide | 39.4 mmol, 4.767 g | C(C=C)Br | C3H5Br
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | Allyl-triethylene glycol | C(C=C)C(COCCOCCO)O | C9H18O4
